US04859234
Phenoxy acetic acid antidote:
Dimethylamine salt of 2,4-dichlorophenoxy acetic acid--2,4-D tank-mixed

reactant | Dimethylamine | CNC | C2H7N
reactant | 2,4-dichlorophenoxy acetic acid | ClC1=C(OCC(=O)O)C=CC(=C1)Cl | C8H6Cl2O3
product | Phenoxy acetic acid | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
